US04080451
2-(N,N-Dimethylcarbamoyl)-1,3,4-oxadiazole-5-thiol
This product (m.p. 185°-187° C.) was prepared by reacting 2-ethoxycarbonyl-1,3,4-oxadiazole-5-thiol with dimethylamine in a manner similar to that described in the procedure of Example XVI, Part C as hereinafter set forth.

reactant | 2-ethoxycarbonyl-1,3,4-oxadiazole-5-thiol | C(C)OC(=O)C=1OC(=NN1)S | C5H6N2O3S
reactant | dimethylamine | CNC | C2H7N
product | 2-(N,N-Dimethylcarbamoyl)-1,3,4-oxadiazole-5-thiol | CN(C(=O)C=1OC(=NN1)S)C | C5H7N3O2S
